US07067540B2
Step 1: Preparation of 1-(3-fluorobenzyl)-4-hydroxy-6-methylpyridin-2(1H)-one
A mixture of 4-hydroxy-6-methyl-2-pyrone (2.5 g, 0.02 mol) and 3-fluorobenzylamine (2.5 g, 0.02 mol) in n-butanol (15.0 mL) was heated to reflux for 16 h under argon atmosphere. Butanol wad distilled in vacuo, the residue was triturated with EtOAc, cooled and filterd the precipitate. It was washed with cold EtOAc, and dried to give 0.86 g of the title compound as a pale yellow powder: 1H-NMR (CD3OD/400 MHz) δ 7.31 (m, 1H), 7.0-6.85 (m, 2H), 6.83 (d, 1H, J=9.6 Hz), 5.96 (d, 1H, j=2.0 Hz), 5.80 (d, 1H, J=2.0 Hz), 5.30 (s, 2H), and 2,24 (s, 3H); ES MS m/z 234 (MH+). Step 2: Preparation of 3-bromo-1-(3-fluorobenzyl)-4-hydroxy-6-methylpyridin-2(1H)-one

reactant | 4-hydroxy-6-methyl-2-pyrone | 0.02 mol, 2.5 g | OC1=CC(OC(=C1)C)=O | C6H6O3
reactant | 3-fluorobenzylamine | 0.02 mol, 2.5 g | FC=1C=C(CN)C=CC1 | C7H8FN
solvent | n-butanol | 15.0 mL | C(CCC)O | C4H10O
product | 1-(3-fluorobenzyl)-4-hydroxy-6-methylpyridin-2(1H)-one | 0.86 g | FC=1C=C(CN2C(C=C(C=C2C)O)=O)C=CC1 | C13H12FNO2
